US05713920
COPOLYMER OF ε-CAPROLACTONE/GLYCOLIDE/p-DIOXANONE AT 40/55/5 MOLE PERCENT
The procedure described in Example 2 is substantially reproduced with 45.66 gm (0.40 mole) of ε-caprolactone, 63.84 gm (0.55 mole) of glycolide, 5.10 gm (0.05 mole) of p-dioxanone, 0.114 ml (1.20 mmole/mole of total monomer) of distilled diethylene glycol and 0.0673 ml stannous octoate (0.33 molar solution is toluene). A weight loss of 1.6% is observed when the polymer is devolatilized at 110° C. under high vacuum. The I.V. of the copolymer is 1.51 dl/g in HFIP and the mole ratio of PCL/PGA/PDS is found to be 38.5/56.2/5.4 by NMR. The glass transition temperature (Tg) and the melting point (Tm) of this copolymer are found to be -6° C. and 54° C., respectively, by DSC.

reactant | ε-caprolactone | 0.40 mole, 45.66 gm | C1(CCCCCO1)=O | C6H10O2
reactant | glycolide | 0.55 mole, 63.84 gm | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | p-dioxanone | 0.05 mole, 5.10 gm | O1C(COCC1)=O | C4H6O3
reactant | stannous octoate | 0.33 molar, 0.0673 ml | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | HFIP | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
solvent | diethylene glycol | 0.114 ml | C(COCCO)O | C4H10O3
product | ε-CAPROLACTONE GLYCOLIDE p-DIOXANONE | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1.O1C(COCC1)=O | InChI=1S/C6H10O2.C4H4O4.C4H6O3/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3;5-4-3-6-1-2-7-4/h1-5H2;1-2H2;1-3H2
